US04298529
70% Perchloric acid (1.09 ml.) was added to a solution of 7-(2-methoxyimino-3,3-ethylenedioxybutyramido)-3-cephem-4-carboxylic acid (syn isomer, 10.9 g.) in acetone (270 ml.) and stirred at room temperature for 3 hours. Water (150 ml.) was added to the resultant solution and acetone was removed in vacuo. Ethyl acetate (300 ml.) was added to the residue and the ethyl acetate layer was separated. The aqueous layer was extracted with ethyl acetate (400 ml.) and then the ethyl acetate extract was combined with ethyl acetate layer. The organic solution was washed with a sodium chloride saturated aqueous solution, allowed to stand in refrigerator overnight and dried over magnesium sulfate. The solution was concentrated in vacuo and the residue was pulverized with diisopropyl ether to give 7-(2-methoxyimino-3-oxobutyramido)-3-cephem-4-carboxylic acid (syn isomer, 5.75 g.).

reactant | Perchloric acid | 1.09 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | 7-(2-methoxyimino-3,3-ethylenedioxybutyramido)-3-cephem-4-carboxylic acid | 10.9 g | CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)C1(C)OCCO1 | C14H17N3O7S
reactant | Water | 150 ml | O | H2O
solvent | acetone | 270 ml | CC(=O)C | C3H6O
product | 7-(2-methoxyimino-3-oxobutyramido)-3-cephem-4-carboxylic acid | 5.75 g | CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)C(C)=O | C12H13N3O6S
